US06924278B2
A mixture of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(2-propynyl)piperazine (0.49 g), 3,3-dimethylmorpholine hydrochloride (0.185 g), paraformaldehyde (62 mg), diisopropylethylamine (0.21 ml), and copper (1) iodide (20 mg) in 1,4-dioxane (5 ml) was stirred at 70° C. for 1.5 hours. After removal of the solvent by evaporation, the residue was purified by column chromatography on silica gel using a mixed solvent of dichloromethane and methanol (40:1). The fractions containing the objective compound was collected and evaporated under reduced pressure to give a syrup of (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-(3,3-dimethylmorpholino)-2-butynyl]piperazine (0.45 g).

reactant | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-(2-propynyl)piperazine | 0.49 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C25H24F6N2O
reactant | 3,3-dimethylmorpholine hydrochloride | 0.185 g | Cl.CC1(NCCOC1)C
reactant | paraformaldehyde | 62 mg | C=O | CH2O
reactant | diisopropylethylamine | 0.21 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | 1,4-dioxane | 5 ml | O1CCOCC1 | C4H8O2
catalyst | copper (1) iodide | 20 mg | [Cu]I
product | (2R)-1-[3,5-bis(trifluoromethyl)benzoyl]-2-(3,4-dimethylbenzyl)-4-[4-(3,3-dimethylmorpholino)-2-butynyl]piperazine | 0.45 g | FC(C=1C=C(C(=O)N2[C@@H](CN(CC2)CC#CCN2C(COCC2)(C)C)CC2=CC(=C(C=C2)C)C)C=C(C1)C(F)(F)F)(F)F | C32H37F6N3O2
